US08008296B2
N-(3-Piperidin-1-yl-propyl)-terephthalamic acid methyl ester
Triethylamine (250 mg, 2.5 mmol) and 3-piperidinopropylamine (284 mg, 2.0 mmol) are dissolved in CH2Cl2 (5 mL). Terephtalic acid monomethyl ester chloride (197 mg, 2.0 mmol) in 2.0 ml of CH2Cl2 is added to the mixture. The reaction mixture is stirred at room temperature for 2 h. The reaction is diluted with CH2Cl2 and washed with brine. The separated organic layer is dried over Na2SO4 and evaporated. The crude material is purified by silica-gel column chromatography (CH2Cl2:2M NH3 in MeOH) to give 473 mg (78%) of the title compound. MS (APCI+) 305 (M+H)+.

reactant | Triethylamine | 2.5 mmol, 250 mg | C(C)N(CC)CC | C6H15N
reactant | 3-piperidinopropylamine | 2.0 mmol, 284 mg | N1(CCCCC1)CCCN | C8H18N2
reactant | Terephtalic acid monomethyl ester chloride | 2.0 mmol, 197 mg | [Cl-].COC(C1=CC=C(C(=O)O)C=C1)=O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.0 ml | C(Cl)Cl | CH2Cl2
product | N-(3-Piperidin-1-yl-propyl)-terephthalamic acid methyl ester | 473 mg, 78% | COC(C1=CC=C(C(=O)NCCCN2CCCCC2)C=C1)=O | C17H24N2O3
